US07981903B2
6-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-methylbenzamide (139 mg, 0.193 mmol) was dissolved in 1,4-dioxane (6 mL) and transferred to a 20 ml microwave vessel. Water (2 mL) and a solution of 6M NaOH (2 ml) and was added and reaction heated in microwave at 120° C. for 10 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid that was purified via chromatography on SiO2 to afford 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-methylbenzamide (51 mg, 0.090 mmol) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.81-1.92 (m, 2 H), 2.11 (br. s., 6H), 2.67 (br. s., 2 H), 2.74 (d, J=4.49 Hz, 3 H), 3.24 (s, 2 H), 3.69 (t, J=6.09 Hz, 2 H), 3.84 (s, 3 H), 5.76 (s, 1 H), 6.34 (d, J=1.10 Hz, 1 H), 6.82 (br. s., 1 H), 6.96 (br. s., 1 H), 7.38-7.51 (m, 2 H), 7.90-8.01 (m, 1 H), 8.38-8.48 (m, 1 H), 8.63 (d, J=4.67 Hz, 1 H), 9.58 (s, 1 H), 11.33 (br.s, 1 H). (ESIMS (M+H)+=565)

reactant | 6-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-methylbenzamide | 0.193 mmol, 139 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)NC)F)F)OC)C | C35H36F2N8O5S
reactant | Water | 2 mL | O | H2O
reactant | NaOH | 6M, 2 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-methylbenzamide | 0.090 mmol, 51 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=CC=C(C(=C2C(=O)NC)F)F)OC)C | C28H30F2N8O3
